US07786115B2
N-cyclopropyl-3-(7-methoxy-4-methyl-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide (262 mg, 0.72 mmol) and lithium iodide (174 mg) were stirred in 2,4,6-collidine (3 ml) and heated under microwave irradiation conditions (Personal Chemistry Emrys Optimizer with 300 W magnetron) at 200° C. for 1.5 hour and then allowed to cool. The reaction mixture was dissolved in 2N NaOH and then re-acidified with 2N HCl solution. The aqueous phase was extracted with ethyl acetate (×4) and the combined organic layers were concentrated. The residue was triturated with 1N HCl, the solid was collected by filtration, washed with water, diethyl ether, and air dried to give N-cyclopropyl-3-(7-hydroxy-4-methyl-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide as an off white solid (207 mg); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 2.09 (s, 3H), 2.24 (s, 3H), 2.86 (m, 1H), 7.00 (s, 1H), 7.31 (d, 1H), 7.48 (d, 1H), 7.62-7.65 (m, 2H), 7.74 (s, 1H), 7.85 (d, 1H), 8.45 (d, 1H), 10.04 (s, 1H); Mass Spectrum: M+H+ 349.

reactant | N-cyclopropyl-3-(7-methoxy-4-methyl-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 0.72 mmol, 262 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C(=C1)C)OC)=O)=O | C22H22N2O3
reactant | lithium iodide | 174 mg | [I-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | 2,4,6-collidine | 3 ml | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | NaOH | 2N | [OH-].[Na+]
product | N-cyclopropyl-3-(7-hydroxy-4-methyl-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C(=C1)C)O)=O)=O | C21H20N2O3
